US07528129B2
11d) (R)-1-carboxy-2-(3-chloro-4-hydroxy-5-methyl-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
200 mg 5% Rh on aluminium oxide were added to a solution of 800 mg (1.35 m mol) (R)-2-(4-benzyloxy-3-chloro-5-methyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 20 mL THF and the suspension was hydrogenated for 12 h at 40° C. and 3000 hPa hydrogen pressure. To complete the reaction the mixture was combined with 5 mL DCM/MeOH (1:1) and hydrogenated for a further 20 h at 40° C. and 3000 hPa. The catalyst was filtered off, the filtrate was evaporated down, the residue was triturated with DIPE, suction filtered and dried.

reactant | (R)-2-(4-benzyloxy-3-chloro-5-methyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 800 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)Cl)C(=O)O)C=CC=C2 | C32H34ClN3O6
reactant | hydrogen | [H][H] | H2
reactant | DCM MeOH | 5 mL | C(Cl)Cl.CO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (R)-1-carboxy-2-(3-chloro-4-hydroxy-5-methyl-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)O)Cl)C(=O)O)C=CC=C2 | C25H28ClN3O6
